US08557872B2
Step 5: Synthesis of 3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylic acid
3-(2-Propylamino-4-trifluoromethyl-phenyl)-acrylic acid methyl ester (67.3 mg, 0.234 mmol) was reacted with aqueous 1N LiOH solution (5 ml) in THF/CH3OH (10 ml/5 ml) for 1 hr. The reaction solvent removed in vacuo. Water (30 ml) was added to the resulting residue, which was neutralized with 1N HCl solution, an then extracted with ethyl acetate (30 ml×3). The combined organic layer was dried over MgSO4 and concentrated in vacuo to yield title compound (55 mg, 0.201 mmol, 86%).

reactant | 3-(2-Propylamino-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 0.234 mmol, 67.3 mg | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)NCCC)=O | C14H16F3NO2
reactant | LiOH | 1N, 5 ml | [Li+].[OH-]
solvent | THF CH3OH | 10 ml | C1CCOC1.CO
product | 3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylic acid | 0.201 mmol, 55 mg, 86% | C(CC)NC1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)O | C13H14F3NO2
